US06174881B1
1.40 g of methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-oxo-butyrate were taken up in 10 ml of dimethylformamide, 100 mg of p-toluenesulphonic acid monohydrate were added and the mixture was stirred at 80° C. for 2 h. For the working up the mixture was treated with 30 ml of water and extracted 5 times with 50 ml of diethyl ether each time. The combined organic phases were dried over magnesium sulphate, concentrated in a vacuum and purified by chromatography on 70 g of silica gel with dichloromethane containing 2% methanol. There were obtained 550 mg (41%) of methyl 8-chloro-6-(2-fluorophenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-carboxylate of m.p. 137-138° C. which was used without further purification for the step described below.

reactant | methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-oxo-butyrate | 1.40 g | ClC=1C=CC2=C(C(=NCC(=N2)NC(C(=O)OC)C(C)=O)C2=C(C=CC=C2)F)C1 | C20H17ClFN3O3
reactant | p-toluenesulphonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 8-chloro-6-(2-fluorophenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-carboxylate | 550 mg, 41% | ClC=1C=CC2=C(C(=NCC=3N2C(=C(N3)C(=O)OC)C)C3=C(C=CC=C3)F)C1 | C20H15ClFN3O2
